*
.SUBCKT BCV61A 1 2 3 4
*
Q1 2 1 3 QBCV61A 
Q2 1 1 4 QBCV61A 
*
.MODEL QBCV61A NPN( 
+     IS = 9.677E-15 
+     NF = 0.9922 
+     ISE = 5.44E-15 
+     NE = 2 
+     BF = 182.1 
+     IKF = 0.14 
+     VAF = 143.8 
+     NR = 0.9935 
+     ISC = 5.236E-12 
+     NC = 1.53 
+     BR = 7.004 
+     IKR = 0.06 
+     VAR = 31.15 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 4 
+     RE = 0.78 
+     RC = 0.656 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.443E-11 
+     VJE = 0.733 
+     MJE = 0.3514 
+     TF = 6.04E-10 
+     XTF = 8.94 
+     VTF = 3.78 
+     ITF = 0.2711 
+     PTF = 0 
+     CJC = 3.287E-12 
+     VJC = 0.5444 
+     MJC = 0.3954 
+     XCJC = 0.693 
+     TR = 1.1E-07 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     FC = 0.789) 
.ENDS
*
